US04179561
C. 2-(Hydroxyphenylmethyl)pyrazolo[1,5-c]quinazolin-5(6H)-one
1.65 g (0.0057 mole) of 2-benzylpyrazolo[1,5-c]quinazolin-5(6H)-one prepared as in part B above is stirred with 880 mg (4 equiv) of sodium borohydride in absolute ethanol (125 ml) at room temperature for 3 hours. The reaction mixture is stripped to dryness and the resulting solid is suspended in water (40 ml), cooled down to 0° and treated dropwise with 1 N HCl 25 ml). The mixture is stirred for 30 minutes, diluted with water (40 ml) and stirred for another 10 minutes. The white precipitates are filtered off, washed well with water and dried overnight in a vacuum over at 70° C. to give 1.6 g of product.

reactant | 2-benzylpyrazolo[1,5-c]quinazolin-5(6H)-one | 0.0057 mole, 1.65 g | C(C1=CC=CC=C1)C1=NN2C(NC=3C=CC=CC3C2=C1)=O | C17H13N3O
reactant | sodium borohydride | 880 mg, 4 equiv | [BH4-].[Na+]
reactant | HCl | 1 N, 25 ml | Cl | ClH
reactant | ethanol | 125 ml | C(C)O | C2H6O
solvent | water | 40 ml | O | H2O
solvent | water | 40 ml | O | H2O
product | 2-(Hydroxyphenylmethyl)pyrazolo[1,5-c]quinazolin-5(6H)-one | 1.6 g | OC(C1=NN2C(NC=3C=CC=CC3C2=C1)=O)C1=CC=CC=C1 | C17H13N3O2
